US06599590B2
To 50 ml of toluene was added 31 g (0.12 mol) of 4-(3,5-difluorophenyl)cyclohexanone monoethylene ketal obtained above and 76 g (1.7 mol) of formic acid, and the mixture was refluxed for 4 hours. The reaction solution was successively with water, a saturated aqueous sodium carbonate and water, dried over magnesium sulfate, and then the solvent was distilled off to afford 26 g of 4-(3,5-difluorophenyl)cyclohexanone.

reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-(3,5-difluorophenyl)cyclohexanone monoethylene ketal | 0.12 mol, 31 g | C1COC2(CCC(CC2)C2=CC(=CC(=C2)F)F)O1 | C14H16F2O2
reactant | formic acid | 1.7 mol, 76 g | C(=O)O | CH2O2
solvent | water | O | H2O
product | 4-(3,5-difluorophenyl)cyclohexanone | 26 g | FC=1C=C(C=C(C1)F)C1CCC(CC1)=O | C12H12F2O
